US07812017B2
1-(tert-Butoxycarbonyl)-4-{[1-(phenylsulfonyl)-1H-indol-4-yl]methyl}piperazine-2-carboxylic acid
1-tert-Butyl 2-methyl 4-{[1-(phenylsulfonyl)-1H-indol-4-yl]methyl}piperazine-1,2-dicarboxylate (all of Intermediate 50) was dissolved in 1M KOH (3 mL) in MeOH (3 mL) and THF (3 mL) and stirred overnight. The mixture was evaporated and diluted with dichloromethane and water. pH was adjusted to 4 with 1N HCl (2.5 mL) and saturated solution of dihydrogenphosphate. The organic phase was evaporated and purified by flash chromatography using 2.5% MeOH to 5% MeOH in dichloromethane. Yield: 85 mg (30%, calculated from 1-(phenylsulfonyl)-1H-indole-4-carbaldehyde). White solid. MS (electronspray; [M+H]+) m/z 500.4.

reactant | 1-tert-Butyl 2-methyl 4-{[1-(phenylsulfonyl)-1H-indol-4-yl]methyl}piperazine-1,2-dicarboxylate | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)CN1CC(N(CC1)C(=O)OC(C)(C)C)C(=O)OC | C26H31N3O6S
reactant | THF | 3 mL | C1CCOC1 | C4H8O
solvent | KOH | 1M, 3 mL | [OH-].[K+]
solvent | MeOH | 3 mL | CO | CH4O
product | 1-(tert-Butoxycarbonyl)-4-{[1-(phenylsulfonyl)-1H-indol-4-yl]methyl}piperazine-2-carboxylic acid | C(C)(C)(C)OC(=O)N1C(CN(CC1)CC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=CC=C1)C(=O)O | C25H29N3O6S
